US07439237B2
4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(4-amino-3-chloro-5-ethyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl}-amide
54 mg (73.0 mmol) 4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(4-amino-3-chloro-5-ethynyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl}-amide, 10 mg (0.02 mmol) of bis(1,5-cyclooctadiene)-di-rhodium(I)-dichloride, 16.5 mg (0.04 mmol) 1,3-bis(diphenylphosphino)-propane were dissolved in 10 ml degassed methanol and 0.1 ml degassed triethylamine and then hydrogenated for 2 hours at ambient temperature and 3 bar hydrogen pressure. The reaction mixture was evaporated down under reduced pressure and taken up in ethyl acetate. The insoluble precipitate was removed by suction filtering and the filtrate was evaporated down under reduced pressure. The residue was purified by column chromatography.

reactant | 4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(4-amino-3-chloro-5-ethynyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl}-amide | 73.0 mmol, 54 mg | NC1=C(C=C(C[C@H](C(=O)N2CCC(CC2)N2CCN(CC2)C)NC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=C1C#C)Cl | C36H47ClN8O3
reactant | 1,3-bis(diphenylphosphino)-propane | 0.04 mmol, 16.5 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
catalyst | bis(1,5-cyclooctadiene)-di-rhodium(I)-dichloride | 0.02 mmol, 10 mg | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Cl-].[Cl-].[Rh].[Rh]
product | 4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(4-amino-3-chloro-5-ethyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl}-amide | NC1=C(C=C(C[C@H](C(=O)N2CCC(CC2)N2CCN(CC2)C)NC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=C1CC)Cl | C36H51ClN8O3
